US07259177B2
20 mg of impure tert-butyl 1-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)-cyclohexylmethoxy]cyclopentanecarboxylate is stirred in 1 ml of trifluoroacetic acid at room temperature overnight. The solution is concentrated completely and the residue is chromatographed on silica gel (heptane/ethyl acetate 10/1->1/1->methyl tert-butyl ether), giving 7.5 mg of 1-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethoxy]cyclo-pentanecarboxylic acid. C25H33NO5 (427.55); LCMS 428.2 (MH+).

reactant | tert-butyl 1-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)-cyclohexylmethoxy]cyclopentanecarboxylate | 20 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO[C@H]1C[C@H](CCC1)COC1(CCCC1)C(=O)OC(C)(C)C | C29H41NO5
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethoxy]cyclo-pentanecarboxylic acid | 7.5 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO[C@H]1C[C@H](CCC1)COC1(CCCC1)C(=O)O | C25H33NO5
